US06271225B1
Ethyl 2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate (6.0 g) was dissolved in N,N-dimethylformamide (120 ml) and the mixture was stirred at 0° C., during which potassium tert-butoxide (3.0 g) was added portionwise. Methyl iodide (12.4 g) was added dropwise under ice-cooling and the mixture was stirred at 0° C. for 5 min and heated to room temperature. The reaction mixture was extracted with ethyl acetate, washed with saturated brine and dried over anhydrous magnesium sulfate. After natural filtration, the solvent was evaporated under reduced pressure, and the residue was separated by silica gel column chromatography (hexane:ethyl acetate=4:1) to give crude crystals (2.8 g) of ethyl 2-(N-methyl-2-nitroanflino)benzo[b]thiophene-3-carboxylate. Without purification, the crystals were treated in the same manner as in Starting Material Synthesis Example 21 using ethanol (50 ml), 18% hydrochloric acid (50 ml) and tin(II) chlorihe.dihydrate (12.6 g) to give ethyl 2-(2-amino-N-methylanilino)benzo[b]thiophene-3-carboxylate (3.2 g).

reactant | Ethyl 2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate | 6.0 g | [N+](=O)([O-])C1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC=C1 | C17H14N2O4S
reactant | potassium tert-butoxide | 3.0 g | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 12.4 g | CI | CH3I
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-amino-N-methylanilino)benzo[b]thiophene-3-carboxylate | 3.2 g | NC1=C(N(C)C2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC=C1 | C18H18N2O2S
